US08258144B2
A solution of 2,4-dichloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidine (190 mg, 0.94 mmol), cyclobutylamine (0.160 mL, 1.88 mmol) and triethylamine (0.200 mL, 1.44 mmol) in nBuOH (6 mL) was stirred at 70° C. overnight. It was then purified by HPLC to give 2-chloro-N-cyclobutyl-6-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (100 mg).

reactant | 2,4-dichloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.94 mmol, 190 mg | ClC=1N=C(C2=C(N1)NC(=C2)C)Cl | C7H5Cl2N3
reactant | cyclobutylamine | 1.88 mmol, 0.160 mL | C1(CCC1)N | C4H9N
reactant | triethylamine | 1.44 mmol, 0.200 mL | C(C)N(CC)CC | C6H15N
solvent | nBuOH | 6 mL | C(CCC)O | C4H10O
product | 2-chloro-N-cyclobutyl-6-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 100 mg | ClC=1N=C(C2=C(N1)NC(=C2)C)NC2CCC2 | C11H13ClN4
